US08466282B2
7-fluoro-1-(4-methoxybutyl)-N-(2-methylpropyl)-N-{(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl}-1H-benzimidazole-2-carboxamide dihydrochloride
tert-Butyl (3S,5R)-3-{{{7-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (160 mg) was dissolved in 2M hydrogen chloride-ethyl acetate (3 ml), and the mixture was stirred at room temperature for 10 hr. The reaction mixture was concentrated under reduced pressure. The residue was subjected to reversed-phase preparative HPLC, and a fraction eluted with water-acetonitrile (9:1-6:4) was collected, basified (pH 10) with saturated aqueous potassium carbonate solution, and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was dissolved in 1M hydrogen chloride-ethyl acetate (1 ml), and the reaction mixture was concentrated under reduced pressure to give the object product (104 mg).

reactant | tert-Butyl (3S,5R)-3-{{{7-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 160 mg | FC1=CC=CC2=C1N(C(=N2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C)CCCCOC | C32H48FN5O6
reactant | hydrogen chloride-ethyl acetate | 2M, 3 ml | C(C)(=O)OCC.Cl
product | 7-fluoro-1-(4-methoxybutyl)-N-(2-methylpropyl)-N-{(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl}-1H-benzimidazole-2-carboxamide dihydrochloride | 104 mg | Cl.Cl.FC1=CC=CC2=C1N(C(=N2)C(=O)N([C@@H]2CNC[C@@H](C2)C(=O)N2CCOCC2)CC(C)C)CCCCOC | InChI=1S/C27H40FN5O4.2ClH/c1-19(2)18-33(21-15-20(16-29-17-21)26(34)31-10-13-37-14-11-31)27(35)25-30-23-8-6-7-22(28)24(23)32(25)9-4-5-12-36-3;;/h6-8,19-21,29H,4-5,9-18H2,1-3H3;2*1H/t20-,21+;;/m1../s1
